US08445509B2
Production of 6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-amine
To a suspension of 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]acetamide (20.8 g, 47.1 mmol) in tetrahydrofuran (200 mL) was added trifluoroacetic acid anhydride (49.5 g, 235.5 mmol) at 0° C., and the mixture was stirred for 1 hr. Methanol (100 mL) was added to the reaction mixture, 8N aqueous sodium hydroxide solution was added until pH reached 12 to 13, and the mixture was stirred at room temperature for 3 hr. Water and ethyl acetate were added to the reaction mixture, and the mixture was extracted 4 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (8.6 g, 68%) as a brown solid.

reactant | 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]acetamide | 47.1 mmol, 20.8 g | COC1=CC=C(COC=2C=CC(N(C2)CC(=O)N)=NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C22H23N3O5S
reactant | trifluoroacetic acid anhydride | 235.5 mmol, 49.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Methanol | 100 mL | CO | CH4O
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-amine | 8.6 g, 68% | COC1=CC=C(COC=2C=CC=3N(C2)C=C(N3)N)C=C1 | C15H15N3O2
